US05243025
Preparation of (CH3)3SiOCH(CH3)CH2OSi(CH3)3
1,2-Propanediol (58.8 g, 0.77 mol) was placed in a 500 mL 3-necked RB flask and treated with 0.2 mL trimethylsilyl chloride. A small volume of HMDS (ca. 10 mL) was added, and an exothermic reaction took place as the mixture became homogeneous. The remainder of the HMDS (170 mL) was added at a controlled rate (ca. 3-5 mL/min), maintaining the reaction temperature at ca. 50°-70° C. Heating was continued at 100° C. (1.5 h), 120° C. (1.0 h),and 140° C. (2.5 h). GC analysis (method 1) revealed excess HMDS and one product. Distillation provided 147 g of colorless oil, bp 70°-72° C./10 mm. 1H NMR (CDCl3): 3.83 (m, 1H), 3.50 and 3.38 (AB pattern with additional coupling, 2H), 1.15 (d, J=7 Hz, 3H), 0.15 (partially resolved singlets, 18H).

reactant | 1,2-Propanediol | 0.77 mol, 58.8 g | C(C(C)O)O | C3H8O2
reactant | trimethylsilyl chloride | 0.2 mL | C[Si](C)(C)Cl | C3H9ClSi
solvent | HMDS | 170 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
solvent | HMDS | ca. 10 mL | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
product | (CH3)3SiOCH(CH3)CH2OSi(CH3)3 | 147 g | [Si](C)(C)(C)OC(C)CO[Si](C)(C)C | C9H24O2Si2
